2193-10-18 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2193-10-17**] 06:27 PM
   - Transfused 2U pRBCs for hematocrit 23.8
   Allergies: ?Heparin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints this morning. Denies chest pain, abdominal pain, SOB.
   Anxious about GI procedures today.
   Flowsheet Data as of  [**2193-10-18**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 77 (72 - 88) bpm
   BP: 144/66(87) {82/33(64) - 145/69(87)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    569 mL
                                                                  1,102 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    329 mL
                                                                    740 mL
   Blood products:
   362 mL
   Total out:
                                                                    335 mL
                                                                    226 mL
   Urine:
                                                                    335 mL
                                                                    226 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    234 mL
                                                                    876 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Audible secretions, resting comfortably in bed
   CV: RRR, normal S1/S2
 difficult exam secondary to upper airway noise
   Pulm: Coarse breath sounds diffusely
   Abd: Obese; hyperactive bowel sounds; nontender; not distended
   Labs / Radiology
   88 K/uL
   9.4 g/dL
   131 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.0 mEq/L
   42 mg/dL
   110 mEq/L
   146 mEq/L
   23.8 %
   9.0 K/uL
        [image002.jpg]
   INR 1.0
                            [**2193-10-17**]  07:21 PM
                            [**2193-10-18**]  02:06 AM
   WBC
   9.0
   Hct
   25.8
   23.8
   Plt
   88
   Cr
   1.6
   Glucose
   131
   Other labs: PT / PTT / INR:11.5/22.0/1.0, Albumin:3.0 g/dL, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   76 year-old male with a history of metastatic small cell lung cancer
   who presented to OSH with syncope and black stool x 2 without clear
   source of bleed on EGD, now transferred to [**Hospital1 19**] for enteroscopy and
   colonoscopy.
   .
   # GIB:  Given black stool, likely upper source.  As outlined above,
   initial EGD showed nonbleeding duodenal ulcer, but repeat scope showed
   duodenitis without evidence of ulceration.  Given GIB with HD
   instability (hypotensive, tachy, requiring 3 u prbcs), seems unlikely
   to be from sources visualized.  Thus, may likely be from small bowel
   AVM vs. ulceration distal to segments scoped.  Given no BRBPR, seems
   less likely lower source, but right sided colonic source is certainly
   possible.  Prepped already for [**Last Name (un) **] at [**Hospital3 1959**].  Currently HD
   stable.
   - GI procedures this afternoon
   - Maintain 2 PIVs
   - Monitor hematocrit following procedure
   - Protonix gtt although can likely transition to [**Hospital1 **] dosing
   .
   # Anemia:  Chronic anemia likely [**2-2**] to malignancy (baseline hct
   unknown), now with acute drop from blood loss.  Received 2 units during
   his [**Date range (1) 2759**] admission and then an additional 3 units since [**10-16**].
   Received 2 units overnight with appropriate increase in hematocrit.
   - management as above
   .
   # Candidal esophagitis:  Although none noted on repeat EGD, has
   received approximately 3 days of fluconazole and nystatin.  Patient
   without any symptoms of dysphagia or odynophagia.
   - will continue fluconazole and nystatin for now
   - address with GI duration of therapy (normally 14-21 days) given no
   signs of esophagitis on repeat scope just days after initial (? clear
   so quickly after initiation of rx)
   .
   # ESRD on PD:  Actually hypophosphotemic so will hold phosphate
   lowering meds.  Will continue qid dwells of 2L 2.5% dextrose solution.
   .
   # Small cell lung cancer:  Metastatic and not currently undergoing any
   therapy.  Followed by Dr. [**Last Name (STitle) 2760**].
   .
   # BPH: Produces small amount of urine.  Will hold on flomax pending
   continued stability in BP.
   .
   # h/o DVT/PE:  s/p IVC filter.  h/o HIT so prophylaxis with
   pneumoboots.
   .
   # FEN:  Clears until midnight and NPO thereafter pending procedure.
   Gentle IVFs.
   .
   # Access:  2 20G PIVs.
   .
   # PPx:  Pneumoboots.  Protonix gtt.
   .
   # Code:  DNR/DNI, confirmed with patient.
   .
   # Dispo:  Likely c/o tomorrow after GI procedures.
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] is HCP [**Telephone/Fax (1) 2761**].
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2193-10-17**] 06:27 PM
   20 Gauge - [**2193-10-17**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2193-10-18 11:15:00 Physician Attending Progress Note
Chief Complaint: Metastatic SCLC with ongoing GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with SCLC and recurrent melena and hypotension.  Transferred from
   [**Hospital6 **] for push enteroscopy and colonoscopy.
   24 Hour Events:
   Stable overnight.  He was transfused two units PRBC.  He is without
   complaint today.  Hemodynamically stable.
   History obtained from Patient
   Allergies:
   Heparin - ? HIT
   Other medications:
   Fluconazole
   PPI drip
   Nystatin S&S
   Changes to medical and family history:
   NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   NONE
   Flowsheet Data as of  [**2193-10-18**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 80 (72 - 88) bpm
   BP: 145/76(94) {82/33(64) - 149/76(94)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    569 mL
                                                                  1,564 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    329 mL
                                                                    908 mL
   Blood products:
   656 mL
   Total out:
                                                                    335 mL
                                                                    404 mL
   Urine:
                                                                    335 mL
                                                                    404 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    234 mL
                                                                  1,160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral upper airway)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   76 K/uL
   123 mg/dL
   1.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   39 mg/dL
   108 mEq/L
   146 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                            [**2193-10-17**]  07:21 PM
                            [**2193-10-18**]  02:06 AM
                            [**2193-10-18**]  05:22 AM
                            [**2193-10-18**]  09:26 AM
   WBC
   9.0
   8.2
   Hct
   25.8
   23.8
   27.5
   29.7
   Plt
   88
   76
   Cr
   1.6
   1.6
   Glucose
   131
   123
   Other labs: PT / PTT / INR:11.5/22.0/1.0, Albumin:3.0 g/dL, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   76M with SCLC here with recurrent episodes of GIB; hemodynamically
   stable and stable HCT overnight. GI for push enteroscopy and
   colonoscopy today.
   1.       GIB:  endoscopy today
   -          Monitor HCT post procedure
   -          If remains HD stable and no sign of significant bleeding,
   will consider transfer to floor.
   ICU Care
   Nutrition:
   NPO for procedure
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2193-10-17**] 06:27 PM
   20 Gauge - [**2193-10-17**] 06:28 PM
   Prophylaxis:
   DVT: Encourage ambulation
   Stress ulcer: PPI drip
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :  Transfer to floor today
   Total time spent:  35 minutes

2193-10-19 07:56:00 Physician Resident Progress Note
Chief Complaint: "Gaining strength back."
   24 Hour Events:
 EKG - At [**2193-10-18**] 08:30 AM
 ENDOSCOPY - At [**2193-10-18**] 12:59 PM
 DIALYSIS CATHETER - START [**2193-10-18**] 04:14 PM
   pd catheter-in abd.
   No acute events overnight.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea. No BMs.
   Genitourinary: Foley
   Flowsheet Data as of  [**2193-10-19**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 69 (64 - 80) bpm
   BP: 117/63(77) {117/60(73) - 145/76(100)} mmHg
   RR: 13 (13 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,472 mL
                                                                    147 mL
   PO:
             TF:
   IVF:
                                                                  1,816 mL
                                                                    147 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                 -1,502 mL
                                                                   -240 mL
   Urine:
                                                                    698 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,974 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Difficult to assess
   secondary to audible breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   11.4 g/dL
   121 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   35 mg/dL
   110 mEq/L
   146 mEq/L
   32.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2193-10-17**]  07:21 PM
                            [**2193-10-18**]  02:06 AM
                            [**2193-10-18**]  05:22 AM
                            [**2193-10-18**]  09:26 AM
                            [**2193-10-18**]  02:26 PM
                            [**2193-10-18**]  10:37 PM
                            [**2193-10-19**]  04:35 AM
   WBC
   9.0
   8.2
   8.8
   7.6
   Hct
   25.8
   23.8
   27.5
   29.7
   30.4
   29.4
   32.3
   Plt
   88
   76
   65
   71
   Cr
   1.6
   1.6
   1.7
   Glucose
   131
   123
   121
   Other labs: PT / PTT / INR:11.2/21.8/0.9, Albumin:3.0 g/dL, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: EGD/Push Enteroscopy ([**2193-10-18**]):
   -Mucosa suggestive of Barrett's esophagus
   -Clotted blood in the stomach body
   -Erythema and congestion in antrum suggestive of mild gastritis
   -1.5cm cratered ulcer in duodenal bulb with visible vessel. 5cc of
   1:10,000 epinephrine, heater probe and one endoclip applied with
   successful hemostasis.
   Microbiology: H. pylori pending
   Assessment and Plan
   76 year-old male with a history of metastatic small cell lung cancer
   who presented to OSH with syncope and black stool x 2 without clear
   source of bleed on EGD, now transferred to [**Hospital1 19**] for push enteroscopy.
   .
   # GIB:  Enteroscopy yesterday revealed bleeding ulcer in duodenal bulb
   with visible vessel, which was clamped successfully. HCT=29.4 last
   night, and 32.3 this morning. Patient is hemodynamically stable.
   - Patient is NPO per GI recommendations.
   - Maintain 2 PIVs
   - Monitor hematocrit
   - Protonix gtt although can likely transition to [**Hospital1 **] dosing
   .
   # Anemia:  Chronic anemia likely [**2-2**] to malignancy (baseline hct
   unknown), now with acute drop from blood loss.  Received 2 units during
   his [**Date range (1) 2759**] admission and then an additional 3 units since [**10-16**].
   HCT improving this morning.
   - management as above
   .
   # Candidal esophagitis:  Although none noted on repeat EGD, has
   received approximately 4 days of fluconazole and nystatin.  Patient
   without any symptoms of dysphagia or odynophagia.
   - will continue fluconazole and nystatin for now
   - address with GI duration of therapy (normally 14-21 days) given no
   signs of esophagitis on repeat scope just days after initial (? clear
   so quickly after initiation of rx)
   .
   # ESRD on PD:  Actually hypophosphotemic so will hold phosphate
   lowering meds. Continued improvement in phos. Will continue qid dwells
   of 2L 2.5% dextrose solution.
   .
   # Small cell lung cancer:  Metastatic and not currently undergoing any
   therapy.  Followed by Dr. [**Last Name (STitle) 2760**].
   .
   # BPH: Produces small amount of urine.  Flomax initially held for BP
   concerns. BP has been stable, thus this can likely be restarted.
   .
   # h/o DVT/PE:  s/p IVC filter.  h/o HIT so prophylaxis with
   pneumoboots.
   .
   # FEN:  Currently NPO per GI recs.  Gentle IVFs.
   .
   # Access:  2 20G PIVs.
   .
   # PPx:  Pneumoboots.
   .
   # Code:  DNR/DNI, confirmed with patient.
   .
   # Dispo:  Likely callout today.
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] is HCP [**Telephone/Fax (1) 2761**].
   ICU Care
   Nutrition: NPO
   Lines:
   Tunneled (Hickman) Line - [**2193-10-17**] 06:27 PM
   Dialysis Catheter - [**2193-10-18**] 04:14 PM
   Prophylaxis:
   DVT: Boots
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2193-10-19 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with SCLC and recurrent melena and hypotension.  Transferred from
   [**Hospital6 **] for push enteroscopy and colonoscopy.
   24 Hour Events:
   Not transfused yesterday
   Endoscopy - bleeding DU seen, injected
 DIALYSIS CATHETER - START [**2193-10-18**] 04:14 PM
   pd catheter-in abd.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   nystatin, fluconazole, protonix drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-19**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 74 (64 - 74) bpm
   BP: 129/78(92) {117/60(73) - 145/78(100)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,472 mL
                                                                    186 mL
   PO:
             TF:
   IVF:
                                                                  1,816 mL
                                                                    186 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                 -1,502 mL
                                                                    280 mL
   Urine:
                                                                    698 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,974 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   71 K/uL
   121 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   35 mg/dL
   110 mEq/L
   146 mEq/L
   32.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2193-10-17**]  07:21 PM
                            [**2193-10-18**]  02:06 AM
                            [**2193-10-18**]  05:22 AM
                            [**2193-10-18**]  09:26 AM
                            [**2193-10-18**]  02:26 PM
                            [**2193-10-18**]  10:37 PM
                            [**2193-10-19**]  04:35 AM
   WBC
   9.0
   8.2
   8.8
   7.6
   Hct
   25.8
   23.8
   27.5
   29.7
   30.4
   29.4
   32.3
   Plt
   88
   76
   65
   71
   Cr
   1.6
   1.6
   1.7
   Glucose
   131
   123
   121
   Other labs: PT / PTT / INR:11.2/21.8/0.9, Albumin:3.0 g/dL, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   76M with SCLC here with recurrent episodes of GIB due to bleeding
   duodenal ulcer; hemodynamically stable with stable Hct.
   1.       UGI Bleed:  due to DU
   -          Monitor Hct q12h, NPO for now
   -          If remains HD stable and no sign of significant bleeding,
   will consider transfer to floor
   -          no signs of active GI bleeding at this time
   -          will likely switch PPI drom drip to [**Hospital1 **] dosing
   2.       Small cell lung ca
            - being followed at [**Hospital6 **]
   ICU Care
   Nutrition: per GI
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2193-10-17**] 06:27 PM
   Dialysis Catheter - [**2193-10-18**] 04:14 PM
   Prophylaxis:
   DVT: encourage ambulation
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2193-10-19 12:30:00 Physician Resident Progress Note
Chief Complaint: "Gaining strength back."
   24 Hour Events:
 EKG - At [**2193-10-18**] 08:30 AM
 ENDOSCOPY - At [**2193-10-18**] 12:59 PM
 DIALYSIS CATHETER - START [**2193-10-18**] 04:14 PM
   pd catheter-in abd.
   No acute events overnight.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea. No BMs.
   Genitourinary: Foley. Continuing PD
   Flowsheet Data as of  [**2193-10-19**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 69 (64 - 80) bpm
   BP: 117/63(77) {117/60(73) - 145/76(100)} mmHg
   RR: 13 (13 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,472 mL
                                                                    147 mL
   PO:
             TF:
   IVF:
                                                                  1,816 mL
                                                                    147 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                 -1,502 mL
                                                                   -240 mL
   Urine:
                                                                    698 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,974 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Difficult to assess
   secondary to audible breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   11.4 g/dL
   121 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   35 mg/dL
   110 mEq/L
   146 mEq/L
   32.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2193-10-17**]  07:21 PM
                            [**2193-10-18**]  02:06 AM
                            [**2193-10-18**]  05:22 AM
                            [**2193-10-18**]  09:26 AM
                            [**2193-10-18**]  02:26 PM
                            [**2193-10-18**]  10:37 PM
                            [**2193-10-19**]  04:35 AM
   WBC
   9.0
   8.2
   8.8
   7.6
   Hct
   25.8
   23.8
   27.5
   29.7
   30.4
   29.4
   32.3
   Plt
   88
   76
   65
   71
   Cr
   1.6
   1.6
   1.7
   Glucose
   131
   123
   121
   Other labs: PT / PTT / INR:11.2/21.8/0.9, Albumin:3.0 g/dL, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: EGD/Push Enteroscopy ([**2193-10-18**]):
   -Mucosa suggestive of Barrett's esophagus
   -Clotted blood in the stomach body
   -Erythema and congestion in antrum suggestive of mild gastritis
   -1.5cm cratered ulcer in duodenal bulb with visible vessel. 5cc of
   1:10,000 epinephrine, heater probe and one endoclip applied with
   successful hemostasis.
   Microbiology: H. pylori pending
   Assessment and Plan
   76 year-old male with a history of metastatic small cell lung cancer
   who presented to OSH with syncope and black stool x 2 without clear
   source of bleed on EGD, now transferred to [**Hospital1 19**] for push enteroscopy.
   .
   # GIB:  Enteroscopy yesterday revealed bleeding ulcer in duodenal bulb
   with visible vessel, which was clamped successfully. HCT=29.4 last
   night, and 32.3 this morning. Patient is hemodynamically stable.
   - Advance diet as tolerated
   - Change to Protonix 40mg IV BID
   .
   # Anemia:  Chronic anemia likely [**2-2**] to malignancy (baseline hct
   unknown), now with acute drop from blood loss.  Received 2 units during
   his [**Date range (1) 2759**] admission and then an additional 3 units since [**10-16**].
   HCT improving this morning, recheck at 5pm.
   .
   # Candidal esophagitis:  Although none noted on repeat EGD, has
   received approximately 4 days of fluconazole and nystatin.  Patient
   without any symptoms of dysphagia or odynophagia.
   - Will discontinue fluconazole and nystatin as recent enteroscopy
   yesterday did not show evidence of candidal esophagitis.
   .
   # ESRD on PD:  Actually hypophosphotemic so will hold phosphate
   lowering meds. Continued improvement in phos. Currently on dwells of 2L
   2.5% dextrose solution. Will switch to home regimen of 4.25%.
   .
   # Small cell lung cancer:  Metastatic and not currently undergoing any
   therapy.  Followed by Dr. [**Last Name (STitle) 2760**].
   .
   # BPH: Produces small amount of urine.  Flomax initially held for BP
   concerns. BP has been stable, thus this will be restarted at home dose
   of 0.4mg PO QHS.
   .
   # h/o DVT/PE:  s/p IVC filter.  h/o HIT so prophylaxis with
   pneumoboots.
   # FEN:  Advance diet as tolerated with no restrictions.  Gentle IVFs.
   # Access:  2 20G PIVs.
   # PPx:  Pneumoboots.
   # Code:  DNR/DNI, confirmed with patient.
   # Dispo:  Callout to medicine floor today.
   # Comm:  [**Name (NI) **] [**Name (NI) **] is HCP [**Telephone/Fax (1) 2761**].
   ICU Care
   Nutrition: Regular
   Lines: Tunneled (Hickman) Line - [**2193-10-17**] 06:27 PM
   Dialysis Catheter - [**2193-10-18**] 04:14 PM
   Prophylaxis:  DVT: Boots
   Code status: DNR / DNI
   Disposition:Transfer to floor
   12:49